US07368578B2
To a solution of 1-(4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazol-2-yl)piperidine (0.61 g) in methanol (30 mL) was added concentrated hydrochloric acid (0.3 mL) at room temperature, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was evaporated under reduced pressure, and the residue was washed with ethyl acetate-methanol to give 4-({E}-2-[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]ethenyl)-1-phenyl-1H-pyrazol-3-ol.hydrochloride (0.49 g, yield 81%) as yellow prism crystals. melting point: 224-226° C.

reactant | 1-(4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-5-methyl-1,3-thiazol-2-yl)piperidine | 0.61 g | COCOC1=NN(C=C1/C=C/C=1N=C(SC1C)N1CCCCC1)C1=CC=CC=C1 | C22H26N4O2S
reactant | hydrochloric acid | 0.3 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 4-({E}-2-[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]ethenyl)-1-phenyl-1H-pyrazol-3-ol.hydrochloride | 0.49 g, yield 81% | Cl.CC1=C(N=C(S1)N1CCCCC1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O | InChI=1S/C20H22N4OS.ClH/c1-15-18(21-20(26-15)23-12-6-3-7-13-23)11-10-16-14-24(22-19(16)25)17-8-4-2-5-9-17;/h2,4-5,8-11,14H,3,6-7,12-13H2,1H3,(H,22,25);1H/b11-10+;
